.subckt comparator A3 A2 A1 A0 B3 B2 B1 B0 equal lesser greater vdd gnd
 
  X47 A0 A0_comp vdd gnd NOT
  X48 A1 A1_comp vdd gnd NOT
  X49 A2 A2_comp vdd gnd NOT
  X50 A3 A3_comp vdd gnd NOT
  X51 B0 B0_comp vdd gnd NOT
  X52 B1 B1_comp vdd gnd NOT
  X53 B2 B2_comp vdd gnd NOT
  X54 B3 B3_comp vdd gnd NOT
  X55 A0 B0 X0 vdd gnd XNOR
  X56 A1 B1 X1 vdd gnd XNOR
  X57 A2 B2 X2 vdd gnd XNOR
  X58 A3 B3 X3 vdd gnd XNOR
  X64 X0 X1 X2 X3 equal vdd gnd 4inputAND
  X65 A3 B3_comp G3 vdd gnd AND
  X66 A2 B2_comp X3 G2 vdd gnd 3inputAND
  X67 A1 B1_comp X3 X2 G1 vdd gnd 4inputAND
  X72 A0 B0_comp X3 X2 X1 G0 vdd gnd 5inputAND
  X76 G3 G2 G1 G0 greater vdd gnd 4inputOR
  X77 A3_comp B3 L3 vdd gnd AND
  X78 A2_comp B2 X3 L2 vdd gnd 3inputAND
  X79 A1_comp B1 X3 X2 L1 vdd gnd 4inputAND
  X80 A0_comp B0 X3 X2 X1 L0 vdd gnd 5inputAND
  X81 L3 L2 L1 L0 lesser vdd gnd 4inputOR
.ends comparator